US05360808
1,6-Dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid-2-propyl ester
To a 25 ml round bottomed flask fitted with a magnetic stirrer bar, reflux condensor, and nitrogen inlet was added 1,6-dihydro-l-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylicacid (0.20 g, 0.70 mmol) and thionyl chloride (5.0 ml). The mixture was heated at reflux for 2 hours, cooled to room temperature, and concentrated. The residue was suspended in 2-propanol (5.0 ml) and 4-dimethylaminopyridine (1 mg). Pyridine (0.17 ml, 2.1 mmol) was added with stirring at room temperature. After 16 hours, the reaction mixture was concentrated. Purification via flash column chromotography (silica gel, 5% methanol/dichloromethane) and repurification via medium pressure liquid chromotography (silica gel, 5% methanol/dichloromethane) gave the desired product, MP: 160°-161 ° C.

reactant | 1,6-dihydro-l-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylicacid | 0.70 mmol, 0.20 g | N1=CC(=CC=C1)C(=O)NCCN1C=C(C=CC1=O)C(=O)O | C14H13N3O4
reactant | thionyl chloride | 5.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Pyridine | 2.1 mmol, 0.17 ml | N1=CC=CC=C1 | C5H5N
product | 1,6-Dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid-2-propyl ester | CC(C)OC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C=1C=NC=CC1 | C17H19N3O4
